US05532409
A process for producing aminocarnitine is described, wherein methanesulfonylcarnitine is converted to a lactone which is reacted with an azide to give azidocarnitine. The catalytic hydrogenation of azidocarnitine gives aminocarnitine.

reactant | methanesulfonylcarnitine | CS(=O)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O | C8H17NO5S
reactant | azide | [N-]=[N+]=[N-]
product | azidocarnitine | N(=[N+]=[N-])C(O)(C[N+](C)(C)C)CC([O-])=O | C7H14N4O3
